*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:22:07 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DLY1X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DLY1X4 Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 2.51729e-16
*|P (Y X 0 1.5000 0.8550)
*|I (Mmn4@1:d Mmn4@1 d X 0 1.4650 0.5100)
*|I (Mmp4@1:d Mmp4@1 d X 0 1.4650 1.0950)
C1 Mmp4@1:d VSS 1.59444e-16
C2 Mmn4@1:d VSS 7.38873e-17
C3 Y VSS 1.83969e-17
Rk1 Mmn4@1:d Y 0.195186 $W=0.09
Rk2 Mmp4@1:d Y 0.048495 $W=0.1
*
*|NET A 2.56013e-16
*|P (A X 0 0.3000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.2425 0.4675)
*|I (Mmp0:g Mmp0 g X 0 0.2975 1.2575)
*|S (A:2 0.2700 0.8350)
C4 Mmp0:g VSS 4.02318e-17
C5 Mmn0:g VSS 4.27994e-17
C6 A:2 VSS 5.74231e-17
C7 A VSS 1.15559e-16
Rl3 A:2 Mmn0:g 101.098900 $W=0.039
Rl4 Mmp0:g A:2 109.615387 $W=0.039
Rk5 A A:2 45.004951 $W=0.37
*
*|NET n0 4.0848e-16
*|I (Mmn0:d Mmn0 d X 0 0.1500 0.4675)
*|I (Mmn1:g Mmn1 g X 0 0.4475 0.4675)
*|I (Mmp0:d Mmp0 d X 0 0.2050 1.2575)
*|I (Mmp1:g Mmp1 g X 0 0.5025 1.2575)
*|S (n0:2 0.3850 0.6450)
*|S (n0:4 0.1050 0.6450)
*|S (n0:6 0.1400 0.4550)
C8 Mmp1:g VSS 8.31056e-17
C9 Mmp0:d VSS 6.85268e-17
C10 Mmn1:g VSS 4.77515e-17
C11 Mmn0:d VSS 2.66201e-17
C12 n0:4 VSS 5.16901e-17
C13 n0:2 VSS 1.30786e-16
Rl6 n0:2 Mmn1:g 47.214355 $W=0.039
Rl7 Mmp1:g n0:2 196.982285 $W=0.039
Rk8 n0:2 n0:4 45.191177 $W=0.08
Rk9 n0:4 n0:6 0.136457 $W=0.1
Rk10 Mmn0:d n0:6 75.000000 $W=0.1
Rk11 n0:4 Mmp0:d 62.514664 $W=0.09
*
*|NET n4 0
*|I (Mmn1:d Mmn1 d X 0 0.5000 0.4675)
*|I (Mmn2:s Mmn2 s X 0 0.5000 0.4675)
Rmw12 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET n1 3.93408e-16
*|I (Mmn2:d Mmn2 d X 0 0.6850 0.4675)
*|I (Mmn3:g Mmn3 g X 0 1.1575 0.5100)
*|I (Mmp2:d Mmp2 d X 0 0.7200 1.2575)
*|I (Mmp3:g Mmp3 g X 0 1.1575 1.0950)
*|S (n1:2 1.1150 0.7900)
*|S (n1:4 0.8950 0.7900)
C14 Mmp3:g VSS 4.19844e-17
C15 Mmp2:d VSS 8.31532e-17
C16 Mmn3:g VSS 3.37576e-17
C17 Mmn2:d VSS 6.73923e-17
C18 n1:4 VSS 8.49025e-17
C19 n1:2 VSS 8.22182e-17
Rl13 n1:2 Mmn3:g 41.482628 $W=0.039
Rl14 Mmp3:g n1:2 26.098015 $W=0.039
Rk15 n1:2 n1:4 45.146748 $W=0.08
Rk16 n1:4 Mmn2:d 75.337555 $W=0.08
Rk17 n1:4 Mmp2:d 62.429943 $W=0.08
*
*|NET n2 4.74174e-16
*|I (Mmn3:d Mmn3 d X 0 1.0650 0.5100)
*|I (Mmn4@1:g Mmn4@1 g X 0 1.3625 0.5100)
*|I (Mmp3:d Mmp3 d X 0 1.0650 1.0950)
*|S (n2:6 1.3050 0.7400)
C20 Mmp3:d VSS 9.47994e-17
C21 Mmn4@1:g VSS 2.13155e-16
C22 Mmn3:d VSS 5.13512e-17
C23 n2:6 VSS 1.14869e-16
Rl18 Mmn4@1:g n2:6 49.885075 $W=0.094
Rk19 Mmn3:d n2:6 75.249214 $W=0.08
Rk20 Mmp3:d n2:6 21.117283 $W=0.08
*
*|NET n5 9.57686e-19
*|I (Mmp1:d Mmp1 d X 0 0.5625 1.2575)
*|I (Mmp2:s Mmp2 s X 0 0.5625 1.2575)
C24 Mmp1:d VSS 9.57686e-19
Rmw21 Mmp2:s Mmp1:d 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=5.3e-07 sca=11.1906 scb=0.0108717 scc=0.000387468
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=3.25e-07 sca=11.1906 scb=0.0108717 scc=0.000387468
Mmn2	Mmn2:d	VDD	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0319P	AS=0.0087P	PD=0.73U	PS=0.41U
+ fw=1.45e-07 sa=4.5e-07 sb=2.2e-07 sca=11.1906 scb=0.0108717 scc=0.000387468
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.0416P	PD=0.8U	PS=0.84U
+ fw=2.6e-07 sa=1.4e-07 sb=9.6e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmn4@1	Mmn4@1:d	Mmn4@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0403P	PD=0.84U	PS=0.83U	M=4
+ fw=2.6e-07 sa=3.45e-07 sb=7.55e-07 sca=15.3338 scb=0.0153436 scc=0.00119435
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=4.75e-07 sca=17.5351 scb=0.0182864 scc=0.000415857
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.01613P	AS=0.0344P	PD=0.58U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=2.7e-07 sca=12.8452 scb=0.0102734 scc=0.000135926
Mmp2	Mmp2:d	VSS	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03225P	AS=0.01613P	PD=0.73U	PS=0.58U
+ fw=2.15e-07 sa=4.65e-07 sb=1.5e-07 sca=11.8288 scb=0.00897951 scc=0.000129234
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0624P	PD=1.06U	PS=1.1U
+ fw=3.9e-07 sa=1.4e-07 sb=9.6e-07 sca=30.5009 scb=0.0202006 scc=0.00336097
Mmp4@1	Mmp4@1:d	Mmn4@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.06045P	PD=1.1U	PS=1.09U	M=4
+ fw=3.9e-07 sa=3.45e-07 sb=7.55e-07 sca=30.7862 scb=0.0202776 scc=0.00336099
.ENDS
.END
