*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:22:16 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DLY2X1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DLY2X1 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 2.10344e-16
*|P (A X 0 1.5000 0.6650)
*|I (Mmn0:g Mmn0 g X 0 1.4125 0.5875)
*|I (Mmp0:g Mmp0 g X 0 1.4125 1.0975)
*|S (A:1 1.4700 0.7700)
*|S (A:2 1.4125 0.7700)
C1 Mmp0:g VSS 3.93505e-17
C2 Mmn0:g VSS 3.39454e-17
C3 A:2 VSS 1.54246e-17
C4 A:1 VSS 9.28331e-17
C5 A VSS 2.87902e-17
Rl1 A:1 A:2 46.233437 $W=0.114
Rl2 A:2 Mmn0:g 37.341133 $W=0.039
Rl3 A:2 Mmp0:g 79.648827 $W=0.039
Rk4 A A:1 0.062063 $W=0.1
*
*|NET Y 2.08749e-16
*|P (Y X 0 0.1000 0.6650)
*|I (Mmn8:d Mmn8 d X 0 0.3100 0.4850)
*|I (Mmp8:d Mmp8 d X 0 0.3100 1.2000)
C6 Mmp8:d VSS 7.75122e-17
C7 Mmn8:d VSS 4.34553e-17
C8 Y VSS 8.77819e-17
Rk5 Y Mmn8:d 75.269859 $W=0.09
Rk6 Mmp8:d Y 31.548351 $W=0.09
*
*|NET n4 8.18438e-16
*|I (Mmn8:g Mmn8 g X 0 0.4025 0.4850)
*|I (Mmn7:d Mmn7 d X 0 2.4400 0.5425)
*|I (Mmp8:g Mmp8 g X 0 0.4025 1.2000)
*|I (Mmp7:d Mmp7 d X 0 2.4850 1.3125)
*|S (n4:2 0.4300 0.7950)
*|S (n4:5 2.2250 1.3600)
C9 Mmp7:d VSS 4.3067e-17
C10 Mmp8:g VSS 3.90568e-17
C11 Mmn7:d VSS 1.3666e-16
C12 Mmn8:g VSS 4.61602e-17
C13 n4:5 VSS 2.60773e-16
C14 n4:2 VSS 2.92721e-16
Rl7 n4:2 Mmn8:g 56.461002 $W=0.039
Rl8 Mmp8:g n4:2 67.999466 $W=0.039
Rk9 n4:5 n4:2 46.743595 $W=0.07
Rk10 Mmn7:d n4:5 75.686882 $W=0.08
Rk11 n4:5 Mmp7:d 62.188122 $W=0.09
*
*|NET n6 0
*|I (Mmn1:d Mmn1 d X 0 0.7325 0.4275)
*|I (Mmn2:s Mmn2 s X 0 0.7325 0.4275)
Rmw12 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET n0 4.92799e-16
*|I (Mmn1:g Mmn1 g X 0 0.6175 0.4275)
*|I (Mmn0:d Mmn0 d X 0 1.3200 0.5875)
*|I (Mmp1:g Mmp1 g X 0 0.7525 1.1125)
*|I (Mmp0:d Mmp0 d X 0 1.3200 1.0975)
*|S (n0:2 0.7800 0.8950)
*|S (n0:5 1.3100 1.0500)
C15 Mmp0:d VSS 1.46543e-16
C16 Mmp1:g VSS 3.66846e-17
C17 Mmn0:d VSS 6.67486e-17
C18 Mmn1:g VSS 6.7312e-17
C19 n0:2 VSS 1.75511e-16
Rl13 n0:2 Mmn1:g 176.900269 $W=0.039
Rl14 Mmp1:g n0:2 24.795059 $W=0.039
Rk15 n0:5 n0:2 45.759880 $W=0.07
Rk16 n0:5 Mmn0:d 75.378593 $W=0.08
Rk17 Mmp0:d n0:5 62.000000 $W=0.08
*
*|NET n1 4.0112e-16
*|I (Mmn2:d Mmn2 d X 0 1.0200 0.4275)
*|I (Mmn3:g Mmn3 g X 0 1.6775 0.5875)
*|I (Mmp2:d Mmp2 d X 0 1.0050 1.1125)
*|I (Mmp3:g Mmp3 g X 0 1.6775 1.0975)
*|S (n1:3 1.7150 0.4100)
*|S (n1:5 1.1100 0.4400)
C20 Mmp3:g VSS 9.04942e-17
C21 Mmp2:d VSS 8.83882e-17
C22 Mmn3:g VSS 3.17543e-17
C23 Mmn2:d VSS 1.12405e-16
C24 n1:3 VSS 7.80782e-17
Rl18 Mmn3:g n1:3 71.155907 $W=0.039
Rl19 Mmp3:g Mmn3:g 126.923073 $W=0.039
Rk20 n1:3 n1:5 0.422918 $W=0.09
Rk21 Mmn2:d n1:5 75.000000 $W=0.09
Rk22 n1:5 Mmp2:d 62.532124 $W=0.08
*
*|NET n8 6.0109e-18
*|I (Mmn3:d Mmn3 d X 0 1.8200 0.5875)
*|I (Mmn4:s Mmn4 s X 0 1.8200 0.5875)
C25 Mmn3:d VSS 6.0109e-18
Rmw23 Mmn4:s Mmn3:d 0.001000 $W=1
*
*|NET n2 6.70683e-16
*|I (Mmn4:d Mmn4 d X 0 2.0550 0.5875)
*|I (Mmn5:g Mmn5 g X 0 2.8575 0.5425)
*|I (Mmp4:d Mmp4 d X 0 1.8750 1.0975)
*|I (Mmp5:g Mmp5 g X 0 2.7825 1.3125)
*|S (n2:3 2.8950 0.3700)
*|S (n2:5 2.0650 0.5750)
C26 Mmp5:g VSS 1.04976e-16
C27 Mmp4:d VSS 7.87713e-17
C28 Mmn5:g VSS 7.13195e-17
C29 Mmn4:d VSS 2.06263e-16
C30 n2:3 VSS 2.09354e-16
Rl24 Mmn5:g n2:3 69.232826 $W=0.039
Rl25 Mmp5:g Mmn5:g 238.027176 $W=0.039
Rk26 n2:3 n2:5 1.250630 $W=0.08
Rk27 Mmn4:d n2:5 75.000000 $W=0.08
Rk28 n2:5 Mmp4:d 62.493286 $W=0.08
*
*|NET n3 4.22599e-16
*|I (Mmn7:g Mmn7 g X 0 2.5775 0.5425)
*|I (Mmn6:d Mmn6 d X 0 3.1825 0.5425)
*|I (Mmp7:g Mmp7 g X 0 2.5775 1.3125)
*|I (Mmp6:d Mmp6 d X 0 2.9800 1.3125)
*|S (n3:2 2.6150 1.0400)
*|S (n3:5 2.9900 1.2650)
C31 Mmp6:d VSS 1.0913e-16
C32 Mmp7:g VSS 3.7395e-17
C33 Mmn6:d VSS 9.55599e-17
C34 Mmn7:g VSS 5.19447e-17
C35 n3:2 VSS 1.28569e-16
Rl29 n3:2 Mmn7:g 149.232834 $W=0.039
Rl30 Mmp7:g n3:2 49.232826 $W=0.039
Rk31 n3:2 n3:5 45.434593 $W=0.08
Rk32 n3:5 Mmn6:d 75.751495 $W=0.09
Rk33 Mmp6:d n3:5 62.000000 $W=0.08
*
*|NET n10 1.37631e-18
*|I (Mmn5:d Mmn5 d X 0 2.9475 0.5425)
*|I (Mmn6:s Mmn6 s X 0 2.9475 0.5425)
C36 Mmn5:d VSS 1.37631e-18
Rmw34 Mmn6:s Mmn5:d 0.001000 $W=1
*
*|NET n7 1.80608e-18
*|I (Mmp1:d Mmp1 d X 0 0.8325 1.1125)
*|I (Mmp2:s Mmp2 s X 0 0.8325 1.1125)
C37 Mmp1:d VSS 1.80608e-18
Rmw35 Mmp2:s Mmp1:d 0.001000 $W=1
*
*|NET n9 0
*|I (Mmp3:d Mmp3 d X 0 1.7300 1.0975)
*|I (Mmp4:s Mmp4 s X 0 1.7300 1.0975)
Rmw36 Mmp4:s Mmp3:d 0.001000 $W=1
*
*|NET n11 1.58096e-18
*|I (Mmp5:d Mmp5 d X 0 2.8350 1.3125)
*|I (Mmp6:s Mmp6 s X 0 2.8350 1.3125)
C38 Mmp5:d VSS 1.58096e-18
Rmw37 Mmp6:s Mmp5:d 0.001000 $W=1
*
*Instance Section
*
Mmn8	Mmn8:d	Mmn8:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.03615P	PD=0.8U	PS=0.86U
+ fw=2.6e-07 sa=1.4e-07 sb=4.59712e-07 sca=13.198 scb=0.0131159 scc=0.000803647
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.02683P	AS=0.03615P	PD=0.66U	PS=0.86U
+ fw=1.45e-07 sa=3.55e-07 sb=5.3e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn2	Mmn2:d	VDD	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0435P	AS=0.02683P	PD=0.89U	PS=0.66U
+ fw=1.45e-07 sa=5.85e-07 sb=3e-07 sca=9.50767 scb=0.00818119 scc=0.00019576
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.06205P	PD=0.57U	PS=1.74U
+ fw=1.45e-07 sa=1.4e-07 sb=6.9e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0348P	AS=0.06205P	PD=0.77U	PS=1.74U
+ fw=1.45e-07 sa=4.05e-07 sb=4.25e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn4	Mmn4:d	VDD	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0348P	PD=0.57U	PS=0.77U
+ fw=1.45e-07 sa=6.9e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn7	Mmn7:d	Mmn7:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03335P	AS=0.03408P	PD=0.75U	PS=0.76U
+ fw=1.45e-07 sa=2.3e-07 sb=7.05e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn5	Mmn5:d	Mmn5:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01958P	AS=0.03408P	PD=0.56U	PS=0.76U
+ fw=1.45e-07 sa=5.1e-07 sb=4.25e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn6	Mmn6:d	VDD	Mmn6:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03553P	AS=0.01958P	PD=0.78U	PS=0.56U
+ fw=1.45e-07 sa=6.9e-07 sb=2.45e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmp8	Mmp8:d	Mmp8:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.09008P	PD=1.06U	PS=1.39U
+ fw=3.9e-07 sa=1.4e-07 sb=4.21154e-07 sca=17.8302 scb=0.0172414 scc=0.000800052
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.02473P	AS=0.09008P	PD=0.66U	PS=1.39U
+ fw=2.15e-07 sa=4.9e-07 sb=3e-07 sca=17.9735 scb=0.0174913 scc=0.0013169
Mmp2	Mmp2:d	VSS	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.02473P	PD=0.71U	PS=0.66U
+ fw=2.15e-07 sa=6.5e-07 sb=1.4e-07 sca=17.5155 scb=0.0173077 scc=0.00131683
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0983P	PD=0.71U	PS=1.72U
+ fw=2.15e-07 sa=1.4e-07 sb=5.1e-07 sca=19.0975 scb=0.0187686 scc=0.00166224
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0129P	AS=0.0983P	PD=0.55U	PS=1.72U
+ fw=2.15e-07 sa=4.05e-07 sb=2.45e-07 sca=19.0975 scb=0.0187686 scc=0.00166224
Mmp4	Mmp4:d	VSS	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0129P	PD=0.71U	PS=0.55U
+ fw=2.15e-07 sa=5.1e-07 sb=1.4e-07 sca=19.0975 scb=0.0187686 scc=0.00166224
Mmp7	Mmp7:d	Mmp7:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=4.5e-07 sca=10.4732 scb=0.00744141 scc=7.36981e-05
Mmp5	Mmp5:d	Mmp5:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0129P	AS=0.0344P	PD=0.55U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=2.45e-07 sca=11.3694 scb=0.00808912 scc=7.45876e-05
Mmp6	Mmp6:d	VSS	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0129P	PD=0.71U	PS=0.55U
+ fw=2.15e-07 sa=4.5e-07 sb=1.4e-07 sca=12.2441 scb=0.00918936 scc=7.99464e-05
.ENDS
.END
